US05292732
N-Acetylethylenediamine (14.5 g) was dissolved in 250 ml of methylene chloride under argon, treated in succession with 250 g of molecular sieve 4 Å and a solution of 28.1 g of 1,2,3,4-tetrahydro-7-methoxy-1-oxo-2-naphthaleneacetaldehyde in 190 ml of methylene chloride and refluxed for 21 hours while stirring. The reaction mixture was cooled, filtered over a Celite® pad and the filtrate was freed from solvent. The crude product, 35.3 g of brown, amorphous material, was chromatographed on 600 g of silica gel with ethyl acetate as the eluent. There were obtained 29.6 g (81%) of N-[2-(4,5-dihydro-8-methoxy-1H-benzo[g]indol-1-yl)-ethyl]acetamide which was processed without further purification.

reactant | N-Acetylethylenediamine | 14.5 g | C(C)(=O)NCCN | C4H10N2O
reactant | 1,2,3,4-tetrahydro-7-methoxy-1-oxo-2-naphthaleneacetaldehyde | 28.1 g | COC1=CC=C2CCC(C(C2=C1)=O)CC=O | C13H14O3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 190 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(4,5-dihydro-8-methoxy-1H-benzo[g]indol-1-yl)-ethyl]acetamide | 29.6 g, 81% | COC1=CC2=C(CCC=3C=CN(C23)CCNC(C)=O)C=C1 | C17H20N2O2
